US08685977B2
To solution of methyl 5-chloro-2,4-difluorobenzoate (25.9 mg, 0.125 mmol) and 3-ethoxyphenol (17.3 mg, 0.125 mmol) in dimethyl formamide (0.5 mL) was added cesium carbonate (82 mg, 0.25 mmol), the mixture was shaken at 120° C. for 16 hours, filtered and evaporated in vacuo. Water (1 mL) was added and extracted with ethyl acetate (3×1 mL), the combined organic layers were dried over sodium sulphate, filtered and evaporated in vacuo. The residue was dissolved in THF (0.7 mL) and to this solution was added a 1M aqueous solution of lithium hydroxide (0.7 mL) and the mixture was shaken at 30° C. for 16 hours. The reaction mixture was evaporated in vacuo, a 1M aqueous solution of hydrochloric acid (0.7 mL) was added and extracted with ethyl acetate (3×1 mL). The combined organic layers were dried over anhydrous sodium sulphate, filtered and evaporated in vacuo. To this residue was added methanesulfonamide (28.6 mg, 0.300 mmol) and a solution of 4-dimethylaminopyridine (24.4 mg, 0.200 mmol) and EDCl (38.3 mg, 0.200 mmol) in dichloromethane (1 mL), the solution was shaken at 30° C. for 16 hours and evaporated in vacuo. The crude product was purified on a HPLC column (Sepax BR-C18 100*21.2 mm*5 μm, acetonitrile-water (0.1% trifluoroacetic acid) gradient to yield 6.2 mg (16 μmol) 5-chloro-4-(3-ethoxyphenoxy)-2-fluoro-N-(methylsulfonyl)benzamide.

reactant | methyl 5-chloro-2,4-difluorobenzoate | 0.125 mmol, 25.9 mg | ClC=1C(=CC(=C(C(=O)OC)C1)F)F | C8H5ClF2O2
reactant | 3-ethoxyphenol | 0.125 mmol, 17.3 mg | C(C)OC=1C=C(C=CC1)O | C8H10O2
reactant | cesium carbonate | 0.25 mmol, 82 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methanesulfonamide | 0.300 mmol, 28.6 mg | CS(=O)(=O)N | CH5NO2S
reactant | EDCl | 0.200 mmol, 38.3 mg | CCN=C=NCCCN(C)C.Cl
solvent | dimethyl formamide | 0.5 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.200 mmol, 24.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | acetonitrile water | C(C)#N.O
product | 5-chloro-4-(3-ethoxyphenoxy)-2-fluoro-N-(methylsulfonyl)benzamide | 16 μmol, 6.2 mg | ClC=1C(=CC(=C(C(=O)NS(=O)(=O)C)C1)F)OC1=CC(=CC=C1)OCC | C16H15ClFNO5S
